US09260429B2
1-ethyl-2,6-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (82 mg, 0.36 mmol) was dissolved in DMF (6 mL). To this solution was added CuI (8 mg, 0.036 mmol), L-proline (9 mg, 0.086 mmol), K3PO4 (183 mg, 0.86 mmol). The reaction mixture was stirred for 10 min at room temperature followed by addition of 4-(1-bromoprop-1-en-2-yl)-1,2-difluorobenzene (100 mg, 0.43 mmol). The reaction mixture was heated at 80° C. for 18 h. Solvent was evaporated under reduced pressure, the residue was diluted with brine and extracted with ethyl acetate. Organic layer was dried over Na2SO4, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography to obtain 25 mg of (E)-9-(2-(3,4-difluorophenyl)prop-1-enyl)-1-ethyl-2,6-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole. 1H NMR (DMSO) OXALATE SALT 7.80 (m, 1H), 7.56 (m, 2H), 7.38 (s, 1H), 7.20 (s, 1H), 7.05 (m, 2H), 3.80 (m, 3H), 3.18 (s, 3H), 3.0 (m, 2H), 2.80 (m, 2H), 2.40 (s, 3H), 1.82 (s, 3H), 0.95 (t, 3H).

reactant | 1-ethyl-2,6-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 0.36 mmol, 82 mg | C(C)C1N(CCC2=C1NC1=CC=C(C=C21)C)C | C15H20N2
reactant | L-proline | 0.086 mmol, 9 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K3PO4 | 0.86 mmol, 183 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-(1-bromoprop-1-en-2-yl)-1,2-difluorobenzene | 0.43 mmol, 100 mg | BrC=C(C)C1=CC(=C(C=C1)F)F | C9H7BrF2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.036 mmol, 8 mg | [Cu]I
product | (E)-9-(2-(3,4-difluorophenyl)prop-1-enyl)-1-ethyl-2,6-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 25 mg | FC=1C=C(C=CC1F)/C(=C/N1C2=C(C3=CC(=CC=C13)C)CCN(C2CC)C)/C | C24H26F2N2
